US06960575B2
(3S)-3-{(3R)-4-Acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-2-oxo-4-phenyl-1-butanol (Compound No. 12-1)
A 1.0 M tetrabutylammonium fluoride/tetrahydrofuran solution (0.5 ml) is added to a solution of (3S)-3-{(3R)-4-acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-1-tert-butyldimethylsilyloxy-2-oxo-4-phenylbutane (130 mg, Compound No. 7-10) in tetrahydrofuran (0.5 ml), and the mixture is stirred for 2.5 hours. The reaction mixture is concentrated under reduced pressure, and the resulting residue is purified by silica gel column chromatography to give the titled compound (25.2 mg).

reactant | tetrabutylammonium fluoride tetrahydrofuran | 1.0 M, 0.5 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.O1CCCC1
reactant | (3S)-3-{(3R)-4-acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-1-tert-butyldimethylsilyloxy-2-oxo-4-phenylbutane | 130 mg | C(C)(=O)N1[C@@H](C(N(C(=C1)C1=CC=CC=C1)CC(=O)N[C@H](C(CO[Si](C)(C)C(C)(C)C)=O)CC1=CC=CC=C1)=O)C(C)C | C33H45N3O5Si
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
product | (3S)-3-{(3R)-4-Acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-2-oxo-4-phenyl-1-butanol | 25.2 mg | C(C)(=O)N1[C@@H](C(N(C(=C1)C1=CC=CC=C1)CC(=O)N[C@H](C(CO)=O)CC1=CC=CC=C1)=O)C(C)C | C27H31N3O5
